### PR TITLE
refactoring binary logic

### PR DESCRIPTION
**Pull request by emarzion**
- Remove `PredLift2` and make it definable in terms of `PredLift`
- Adding some logical stuff (weakening, etc) into `PredLift`

### CODE REVIEW

File: theory/Utils/Classes.v [hunk 1]
```diff
@@ -98,12 +110,76 @@ Proof.
...
+      simpl; intros.
+      apply H2 in H4.
+      unfold plift2 in H4.
+      apply plift_comm; auto.
+  - intros.
+    apply plift_comm.
+    exact H3.
+Qed.
+
+Lemma plift2_ret_l {M} `{PredLift M} {X Y}
```
Comment (PalindromeLeung) [inline theory/Utils/Classes.v:166]: do we not need the `plift2_ret` ?

Comment (emarzion) [reply theory/Utils/Classes.v:166]: Not something we need yet and I'd like to move away from the "double-sided" reasoning anyway.
